US06727264B1
2-METHYL-N-(3-{1-[4-(4-MORPHOLINYL)-3-NITROBENZYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
Prepared by Procedure F and Scheme R using 4-(4-morpholinyl)-3-nitrobenzaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 467.1 (M+H)+.

reactant | 4-(4-morpholinyl)-3-nitrobenzaldehyde | N1(CCOCC1)C1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C11H12N2O4
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | 2-METHYL-N-(3-{1-[4-(4-MORPHOLINYL)-3-NITROBENZYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CC1=CC(=C(C=C1)N1CCOCC1)[N+](=O)[O-])C | C26H34N4O4
